US07504401B2
d) N-[3-(1H-Indol-4-yl)-5-(pyridine-3-sulfonyl)-phenyl]-acetamide
N-[3-chloro-5-(pyridine-3-sulfonyl)-phenyl]-acetamide was converted to N-[3-(pyridine-3-sulfonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-acetamide and the triisopropylsilyl protecting group was removed as described in Example 35. 1H NMR (400 MHz, CD3OD): δ 9.17 (br s, 1H), 8.82 (br s, 1H), 8.38 (d, J=8.4 Hz, 1H), 8.30 (s, 1H), 8.12 (s, 1H), 7.96 (d, J=1.4 Hz, 1H), 7.63 (s, 1H), 7.44 (d, J=8.2 Hz, 1H), 7.31 (d, J=3.3 Hz, 1H), 7.19 (t, J=7.7 Hz, 1H), 7.10 (d, J=7.4 Hz, 1H), 6.53 (d, J=3.2 Hz, 1H), 2.15 (s, 3H).

reactant | N-[3-chloro-5-(pyridine-3-sulfonyl)-phenyl]-acetamide | ClC=1C=C(C=C(C1)S(=O)(=O)C=1C=NC=CC1)NC(C)=O | C13H11ClN2O3S
reactant | N-[3-(pyridine-3-sulfonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-acetamide | N1=CC(=CC=C1)S(=O)(=O)C=1C=C(C=C(C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)NC(C)=O | C30H37N3O3SSi
product | N-[3-(1H-Indol-4-yl)-5-(pyridine-3-sulfonyl)-phenyl]-acetamide | N1C=CC2=C(C=CC=C12)C=1C=C(C=C(C1)S(=O)(=O)C=1C=NC=CC1)NC(C)=O | C21H17N3O3S
